US08193357B2
(±)-9-Chloro-1,2-dimethyl-5-fluoro-3-(2,2,2-trifluoro-ethyl)-1,2,3,6-tetrahydro-pyrrolo[3,2-f]quinolin-7-one (Compound 151, Structure 5 of Scheme I, where RA=chloro. R1=methyl, R3=methyl, R5=2,2,2-trifluoroethyl, R6=fluoro)
This compound was prepared using the method described in Example 23 from 8-fluoro-6-hydrazino-4-chloroquinolin-2(1H)-one and trifluoroacetic acid. Spectral data for compound 151: 1H NMR (500 MHz, acetone-d6) δ 10.36 (s, 1H), 7.06 (d, J=11.5 Hz, 1H), 6.78 (s, 1H), 4.11 (qn, J=6.8 Hz, 1H), 4.08 (dq, J=16.4, 9.9 Hz, 1H), 3.93 (dq, J=16.4, 9.2 Hz, 1H), 3.86 (qn, J=6.6 Hz, 1H), 1.45 (d, J=6.6 Hz, 3H), 1.17 (d, J=6.8 Hz, 3H).

reactant | 8-fluoro-6-hydrazino-4-chloroquinolin-2(1H)-one | FC=1C=C(C=C2C(=CC(NC12)=O)Cl)NN | C9H7ClFN3O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-9-Chloro-1,2-dimethyl-5-fluoro-3-(2,2,2-trifluoro-ethyl)-1,2,3,6-tetrahydro-pyrrolo[3,2-f]quinolin-7-one | ClC1=CC(NC2=C(C=C3C(=C12)C(C(N3CC(F)(F)F)C)C)F)=O | C15H13ClF4N2O
